US05663053
8-Bromooctanoic acid (22.3 g), 2-(2-methoxyethoxy)-ethanol (14.08 g) and p-toluenesulphouic acid (0.1 g) were added to toluene (250 ml ) and the resulting soution heated at reflux temperature for 16 hours. Ethyl acetate (500 ml) was then added and the solution washed with aqueous K2CO3 solution and water, dried and evaporated. The residual oil was distilled to give 2-(2-methoxyethoxy)-ethyl 8-bromooctanoate (25.5 g), 77%) as a colourless oil, b.p. 126°-128° C./0.08 mm Hg.

reactant | 8-Bromooctanoic acid | 22.3 g | BrCCCCCCCC(=O)O | C8H15BrO2
reactant | 2-(2-methoxyethoxy)-ethanol | 14.08 g | COCCOCCO | C5H12O3
reactant | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-methoxyethoxy)-ethyl 8-bromooctanoate | 25.5 g | BrCCCCCCCC(=O)OCCOCCOC | C13H25BrO4
